US09359359B2
To a solution of 8-bromo-7-(4-fluorobenzyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione (26 g, 52.5 mmol) in ethanol (500 mL) was added concentrated HCl (50 mL) and the mixture was stirred at room temperature for 1 h. The mixture was concentrated to half its volume and the product precipitated. The solids were collected and washed with water and ethanol; then dried under vacuum to give 8-bromo-7-(4-fluorobenzyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione (18.1 g, 83.9% yield) as white solid. LCMS retention time 1.243 min; LCMS MH+ 411.

reactant | 8-bromo-7-(4-fluorobenzyl)-3-methyl-1-(3-(tetrahydro-2H-pyran-2-yloxy)propyl)-1H-purine-2,6(3H,7H)-dione | 52.5 mmol, 26 g | BrC1=NC=2N(C(N(C(C2N1CC1=CC=C(C=C1)F)=O)CCCOC1OCCCC1)=O)C | C21H24BrFN4O4
reactant | HCl | 50 mL | Cl | ClH
solvent | ethanol | 500 mL | C(C)O | C2H6O
product | 8-bromo-7-(4-fluorobenzyl)-1-(3-hydroxypropyl)-3-methyl-1H-purine-2,6(3H,7H)-dione | 18.1 g, 83.9% yield | BrC1=NC=2N(C(N(C(C2N1CC1=CC=C(C=C1)F)=O)CCCO)=O)C | C16H16BrFN4O3
